US08022062B2
Use a method similar to the General Procedure 5-2, using 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (0.2 g, 0.35 mmol) and 6-aminomethyl-benzofuran (0.2 g, 1.06 mmol) with tris(dibenzylideneacetone)dipalladium (0) (32.0 mg, 0.04 mmol), BINAP (88.0 mg, 0.11 mmol) and cesium carbonate (0.2 g, 0.71 mmol) at 90° C. for 17 h, to obtain 6-[(benzofuran-6-yl-methyl)-amino]-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a colorless oil.

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.35 mmol, 0.2 g | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | 6-aminomethyl-benzofuran | 1.06 mmol, 0.2 g | NCC1=CC2=C(C=CO2)C=C1 | C9H9NO
reactant | BINAP | 0.11 mmol, 88.0 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 0.71 mmol, 0.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tris(dibenzylideneacetone)dipalladium | 0.04 mmol, 32.0 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-[(benzofuran-6-yl-methyl)-amino]-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | O1C=CC2=C1C=C(C=C2)CNC2=C(C=CC=1CCN(CCC12)C(C(F)(F)F)=O)Cl | C21H18ClF3N2O2
